US04873251
2-(4-Chlorophenyl)-1H-imidazo[4,5-b]pyridine-1-acetic acid ethyl ester hydrochloride [1:1]
Under a nitrogen flow, sodium hydride (1.76 g, 0.044 mole, 60% in oil) was washed with hexaxnes (~75 ml) and decanted. Dimethylformamide (150 ml) was added and the 2-(4-chlorophenyl)-3H-imidazo [4,5-b]pyridine (9.16 g, 0.04 mole) was added in portions. The reaction mixture was heated at 70°-85° C. for 1 1/2 hours. Ethyl bromoacetate (6.68 g, 0.04 mole) was added in dropwise and the reaction mixture was allowed to stir at room temperature over the weekend. The reaction mixture was poured into water and the precipitate was collected by filtration, washed with water, and dried under high vacuum at 50 ° C. overnight (78.6% crude yield). A 1.5-g sample was dissolved in ethyl acetate, acidified with ethereal hydrogen chloride, and the crystalline precipitate was collected by filtration, washed with ethyl acetate, and dried under high vacuum to give 1.55 g. The sample was recrystallized from acetonitrile to give 1.16 g after drying under high vacuum at 75° C. over the weekend, mp 199°-200° C. with decomposition.

reactant | sodium hydride | 0.044 mole, 1.76 g | [H-].[Na+]
reactant | 2-(4-chlorophenyl)-3H-imidazo [4,5-b]pyridine | 0.04 mole, 9.16 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1 | C12H8ClN3
reactant | Ethyl bromoacetate | 0.04 mole, 6.68 g | BrCC(=O)OCC | C4H7BrO2
solvent | water | O | H2O
product | 2-(4-Chlorophenyl)-1H-imidazo[4,5-b]pyridine-1-acetic acid ethyl ester hydrochloride | Cl.C(C)OC(CN1C(=NC2=NC=CC=C21)C2=CC=C(C=C2)Cl)=O | InChI=1S/C16H14ClN3O2.ClH/c1-2-22-14(21)10-20-13-4-3-9-18-15(13)19-16(20)11-5-7-12(17)8-6-11;/h3-9H,2,10H2,1H3;1H
